US06699904B2
To a solution of 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-ethoxy-acrylic acid ethyl ester (1.11 mmol, 510 mg) dissolved in anhydrous methanol (20 mL) was added dry magnesium turnings (2.77 mmol, 67 mg). The resulting solution was allowed to stir at room temperature, with additional portions of magnesium being added after dissolution of the previous portion until the starting material had been consumed as determined by mass spectrometry. The mixture was poured over 25 mL of ice cooled 2M HCl. The acidic mixture was brought to pH 9 by the addition of concentrated aqueous ammonia, then was extracted with diethyl ether (3×). The organic layers were combined, washed with saturated NaCl (3×), dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-ethoxy-propionic acid methyl ester as a clear oil (437 mg, 88%).

reactant | 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-ethoxy-acrylic acid ethyl ester | 1.11 mmol, 510 mg | C(C)OC(C(=CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)OCC)=O | C27H43NO5
reactant | magnesium | 2.77 mmol, 67 mg | [Mg] | Mg
solvent | methanol | 20 mL | CO | CH4O
product | 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-ethoxy-propionic acid methyl ester | 437 mg, 88% | COC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)OCC)=O | C26H43NO5
